US07141596B2
Step 6. (2S)-2-(Acetylamino)-N-{(1R)-1-(1H-benzimidazol-2-yl)-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl}-3-phenylpropanamide
To a solution of (2S)-2-(acetylamino)-N-{(1R)-1-(1H-benzimidazol-2-yl)-2-[4-(1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl}-3-phenylpropanamide (5.0 mg, 0.009 mmol) in methanol (1.5 mL) was added 5% palladium on carbon (3 mg, 0.03 mmol), and mixed for 1.5 h under hydrogen gas (50 psi). Product was filtered and purified by preparative LCMS to afford the final product (1.9 mg, 38%). 1H NMR (500 MHz, CD3OD): δ 7.73–7.76 (m, 2H), 7.58–7.60 (m, 2H), 7.43 (d, J=7.0 Hz, 2H), 7.23–7.26 (m, 5H), 7.14–7.16 (m, 2H), 5.42–5.47 (m, 1H), 5.11–5.16 (m, 1H), 4.52–4.56 (m, 1H), 3.40–3.46 (m, 2H), 2.76–2.92 (m, 4H), 1.90 (s, 3H); LCMS found for C29H30N5O5S (M+H)+: m/z=560.1

reactant | (2S)-2-(acetylamino)-N-{(1R)-1-(1H-benzimidazol-2-yl)-2-[4-(1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl}-3-phenylpropanamide | 0.009 mmol, 5.0 mg | C(C)(=O)N[C@H](C(=O)N[C@H](CC1=CC=C(C=C1)C1=CC(NS1(=O)=O)=O)C1=NC2=C(N1)C=CC=C2)CC2=CC=CC=C2 | C29H27N5O5S
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium on carbon | 0.03 mmol, 3 mg | [Pd] | Pd
product | (2S)-2-(Acetylamino)-N-{(1R)-1-(1H-benzimidazol-2-yl)-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl}-3-phenylpropanamide | 1.9 mg, 38% | C(C)(=O)N[C@H](C(=O)N[C@H](CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O)C1=NC2=C(N1)C=CC=C2)CC2=CC=CC=C2 | C29H29N5O5S
